US07479558B2
4-(2-Methylsulfanyl-phenyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (50 mg, 0.12 mmol) in dioxane/H2O (3:1, 4.8 mL) was mixed with 2-methylthiophenyl boronic acid (30.4 mg, 0.18 mmol) and K2CO3 (50.1 mg, 0.36 mmol). The resultant mixture was bubbled with argon for 5 minutes, and added by Pd(PPh3)4 (2.8 mg, 0.0024 mmol). The reaction tube was sealed and heated with “Smith Creator” (microwave, 150° C.) for 15 minutes. The mixture was concentrated under vaco. Flash chromatography (EtOAc/Hexane, 3:1) then provided the title compound (88%): MS (ES) m/z 503 (M+H)+; 1H-NMR(CDCl3) δ 2.48 (s, 3H), 2.65 (s, br, 2H), 3.70 (m, br, 5H), 6.20 (m, br, 1H), 6.45 (m, 1H), 7.43 (m, 6H), 7.68 (m, 1H), 7.83 (m, 2H).

reactant | 4-Chloro-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.12 mmol, 50 mg | ClC=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=CC=C(C=C2)C(F)(F)F | C17H14ClF3N4O3
reactant | 2-methylthiophenyl boronic acid | 0.18 mmol, 30.4 mg | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | K2CO3 | 0.36 mmol, 50.1 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 4.8 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.0024 mmol, 2.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-Methylsulfanyl-phenyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 88% | CSC1=C(C=CC=C1)C=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=CC=C(C=C2)C(F)(F)F | C24H21F3N4O3S
